US08008279B2
(1R,2R)-N-(1-cyanocyclopropyl)-2-{[6-(cyanomethoxy)-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl]carbonyl}cyclohexanecarboxamide
Following Example 34 (1R,2R)-2-(6-hydroxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide (102 mg, 0.25 mmol), bromoacetonitrile (50 uL, 0.75 mmol) and potassium carbonate (104 mg, 0.75 mmol) in DMF (5 mL) were heated to 80° C. for 1 h when reaction was ca 60% complete. Preparative HPLC (0.5% HCOOH, CH3CN/H2O gradient) to give a yellow solid (51.9, 47%).

reactant | (1R,2R)-2-(6-hydroxy-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carbonyl)-cyclohexanecarboxylic acid (1-cyano-cyclopropyl)-amide | 0.25 mmol, 102 mg | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)O)CC1 | C23H26N4O3
reactant | bromoacetonitrile | 0.75 mmol, 50 uL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 0.75 mmol, 104 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCOOH | C(=O)O | CH2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH3CN H2O | CC#N.O
product | (1R,2R)-N-(1-cyanocyclopropyl)-2-{[6-(cyanomethoxy)-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indol-2-yl]carbonyl}cyclohexanecarboxamide | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](CCCC1)C(=O)N1CC2=C(NC=3C(=CC=CC23)OCC#N)CC1 | C25H27N5O3
